* Test circuit for pin.mod

*.include C:\Spice\tests\numparam\pin.mod
.include pin.mod

* Photodiode supply
Vbias 	psu  0  10V

* Light input is modeled by a voltage source that we can vary
Vlight	input  0  2mW

* The pin diode
Xpin  input cathode anode SIMPLE_PIN resp=0.7

* monitor resistor
Rmon  anode  0  1ohm 

* Quench restistor
Rq  psu cathode 1k

*.dc vlight 0 5mW 0.01mW

.dc vlight 0 10mW 0.01mW

.control
dc vlight 0 10mW 0.01mW
*write pintest.raw all
plot V(anode)
.endc

.end

